US09079880B2
Cool a solution of 3-((S)-1-carboxy-ethoxy)-benzoic acid methyl ester (0.32 g, 1.43 mmol) in pyridine (5 mL) to 0° C. and add 4-aminobenzonitrile (0.20 g 1.69 mmol) followed by phosphorous oxychloride (0.15 mL, 1.60 mmol). Stir the mixture at 0° C. for 1 hour then dilute with water and extract with EtOAc. Wash the combined organic portion with a 2N solution of hydrochloric acid then dry over anhydrous sodium sulfate and concentrate under reduced pressure to provide 0.42 g of 3-[(S)-1-(4-cyano-phenylcarbamoyl)-ethoxy]-benzoic acid methyl ester as a foam.

reactant | 3-((S)-1-carboxy-ethoxy)-benzoic acid methyl ester | 1.43 mmol, 0.32 g | COC(C1=CC(=CC=C1)O[C@@H](C)C(=O)O)=O | C11H12O5
reactant | 4-aminobenzonitrile | 1.69 mmol, 0.20 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | phosphorous oxychloride | 1.60 mmol, 0.15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-[(S)-1-(4-cyano-phenylcarbamoyl)-ethoxy]-benzoic acid methyl ester | 0.42 g | COC(C1=CC(=CC=C1)O[C@@H](C)C(NC1=CC=C(C=C1)C#N)=O)=O | C18H16N2O4
